US04958026
A solution of 13.9 g of 2-(3-amino-4-benzyloxyphenyl)acetic acid dipropylamide in 65 ml of tetrahydrofuran is added dropwise under a nitrogen atmosphere into 12 ml of a one-molar solution of borane in tetrahydrofuran, cooled to +5° C., during a period of 20 minutes. Subsequently, the mixture is agitated for 4 hours at room temperature and refluxed for 22 hours. The mixture is combined with semiconcentrated hydrochloric acid and water and the tetrahydrofuran is distilled off. The aqueous solution is then adjusted to a pH value of 10 with sodium hydroxide and extracted by shaking with ether. The ether solution yields, after evaporation and chromatography on silica gel with methylene chloride/acetone (1:1), 8.93 g of pure 2-benzyloxy-5-(2-dipropylaminoethyl)-aniline as an oil. Treatment of this product with 2N HCl in methanol and evaporation yield 2-benzyloxy-5-(2-dipropylaminoethyl)aniline, dihydrochloride, mp 111°-112° C.

reactant | 2-(3-amino-4-benzyloxyphenyl)acetic acid dipropylamide | 13.9 g | C(CC)N(C(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)N)=O)CCC | C21H28N2O2
reactant | borane | B | BH3
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
product | 2-benzyloxy-5-(2-dipropylaminoethyl)aniline, dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)OC1=C(N)C=C(C=C1)CCN(CCC)CCC | InChI=1S/C21H30N2O.2ClH/c1-3-13-23(14-4-2)15-12-18-10-11-21(20(22)16-18)24-17-19-8-6-5-7-9-19;;/h5-11,16H,3-4,12-15,17,22H2,1-2H3;2*1H
